US05036068
A mixture of 296 mg of 2,2-dimethyl-4-(6-hydroxy-3-pyridazinyloxy)-6-cyano-2H-1,3-benzoxazine, 1 g of K2CO3,0.65 ml of dimethyl sulfate and 16 ml of DMF is boiled for 3 hours and subjected to customary work-up. 2,2-Dimethyl-4-(6-methoxy-3-pyridazinyloxy)-6-cyano-2H-1,3-benzoxazine is obtained.

reactant | 2,2-dimethyl-4-(6-hydroxy-3-pyridazinyloxy)-6-cyano-2H-1,3-benzoxazine | 296 mg | CC1(OC2=C(C(=N1)OC=1N=NC(=CC1)O)C=C(C=C2)C#N)C | C15H12N4O3
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfate | 0.65 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
product | 2,2-Dimethyl-4-(6-methoxy-3-pyridazinyloxy)-6-cyano-2H-1,3-benzoxazine | CC1(OC2=C(C(=N1)OC=1N=NC(=CC1)OC)C=C(C=C2)C#N)C | C16H14N4O3
